US05006528
To a mixture of 6.08 g of 2-chloro-3-methylaniline, 9 g of di(2-bromoethyl)amine hydrobromide and 4 ml of water was added a solution of 0.8 g of potassium hydorxide and 2.5 ml of water 3 times of 1 hour interval at 100° C., then the reaction mixture was stirred at the same temperature for 9 hours. To the resultant reaction mixture was added potassium hydroxide to make the mixture alkaline, and the mixture was extracted with diethyl ether, washed with water, dried with anhydrous magnesium sulfate. The solvent was removed by evaporation and the residue thus obtained was purified by means of a silica gel column chromatography (eluent: 5%-methanol/chloroform), and obtained 3.41 g of 4-(2-chloro-3-methylphenyl)piperazine.

reactant | 2-chloro-3-methylaniline | 6.08 g | ClC1=C(N)C=CC=C1C | C7H8ClN
reactant | di(2-bromoethyl)amine hydrobromide | 9 g | Br.BrCCNCCBr
reactant | potassium hydorxide | 0.8 g | [OH-].[K+]
solvent | water | 2.5 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 4-(2-chloro-3-methylphenyl)piperazine | 3.41 g | ClC1=C(C=CC=C1C)N1CCNCC1 | C11H15ClN2
